US07396846B2
3-(4-methanesulfonyl-phenyl)-4-methyl-2-thia-1-azaspiro[4.5]dec-3-ene 2,2-dioxide (4.5 g, 12.6 mmol) and N-bromo succinimide (2.5 g, 14 mmol) were stirred in 200 ml CCl4 with a catalytic amount of benzoyl peroxide for 4 hours at 85° C. Then the solvent was evaporated and the residue disolved in dichloromethane, washed with water and NaHCO3 solution, dried (Na2SO4) and evaporated. The solid product was recrystallized from ethanol to yield 4-bromomethyl-3-(4-methanesulfonyl-phenyl)-2-thia-1-aza-spiro[4.5]dec-3-ene 2,2-dioxide (3.7 g, 68%). This product was dissolved in ethanol (20 ml), ethylamine (70% solution in water, 20 ml) was added, the mixture was left at room temperature for 3 hours and evaporated. The residue was dissolved in CH2Cl2, washed with water and extracted with 2 M HCl. After addition of NaOH and extraction with CH2Cl2 the organic layer was dried (Na2SO4) and evaporated. Chromatography on silica (eluent CH2Cl2/EtOH 95:5) yielded 1.50 g (66%) N-ethyl-N-[3-(4-methanesulfonyl-phenyl)-2,2-dioxo-2-thia-1-aza-spiro[4.5]dec-3-en-4-ylmethyl]-amine, shown below. 1H-NMR (CDCl3) δ 8.01 (d, 2H), 7.83 (d, 2 H), 4.81 (s, 1 H), 3.45 (s, 2 H), 3.09 (s, 3 H), 2.54 (q, 2 H), 2.02-1.15 (m, 10 H), 0.96 (t, 3 H).

reactant | 3-(4-methanesulfonyl-phenyl)-4-methyl-2-thia-1-azaspiro[4.5]dec-3-ene 2,2-dioxide | 12.6 mmol, 4.5 g | CS(=O)(=O)C1=CC=C(C=C1)C=1S(NC2(C1C)CCCCC2)(=O)=O | C16H21NO4S2
reactant | N-bromo succinimide | 14 mmol, 2.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromomethyl-3-(4-methanesulfonyl-phenyl)-2-thia-1-aza-spiro[4.5]dec-3-ene 2,2-dioxide | 3.7 g, 68% | BrCC1=C(S(NC12CCCCC2)(=O)=O)C2=CC=C(C=C2)S(=O)(=O)C | C16H20BrNO4S2
